US06689530B2
In 250 g of ethanol were dissolved 250 g (2.05 mol) of 2,5-dimethylphenol (or p-xylenol), 90 g (2.25 mol) of sodium hydroxide and 371 g (2.25 mol) of n-hexyl bromide. The solution was heated for 2 hours in an oil bath at 80° C. Water, 500 g, was added to the reaction mixture, from which an oily matter was separated. Vacuum distillation of the oily matter yielded 384 g of 2,5-dimethyl-1-n-hexyloxy-benzene. Next, 129 g (0.625 mol) of 2,5-dimethyl-1-n-hexyloxybenzene was dissolved in 625 g of 1,2-dichloroethane. To the solution kept in an ice bath, 100 g (0.625 mol) of bromine was added dropwise at a temperature below 5C. At the end of dropwise addition, 500 g of water was added. The organic layer was separated therefrom and washed with 300 g of an aqueous solution of 5 wt % sodium hydrogen carbonate. The organic layer was concentrated to remove the solvent, leaving an oily matter. Vacuum distillation (boiling point 114-124° C./0.5 Torr) of the oily matter yielded 174 g of 4-bromo-2,5-dimethyl-n-hexyloxybenzene.

reactant | 2,5-dimethyl-1-n-hexyloxybenzene | 0.625 mol, 129 g | CC1=C(C=C(C=C1)C)OCCCCCC | C14H22O
reactant | bromine | 0.625 mol, 100 g | BrBr | Br2
reactant | water | 500 g | O | H2O
solvent | 1,2-dichloroethane | 625 g | ClCCCl | C2H4Cl2
product | 4-bromo-2,5-dimethyl-n-hexyloxybenzene | 174 g | BrC1=CC(=C(C=C1C)OCCCCCC)C | C14H21BrO
